US07662830B2
1. 4-(3-Chloro-5-ethoxycarbonyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Heat a solution of 5,6-dichloro-nicotinic acid ethyl ester (TCI America) (4.43 g, 0.02 mol), piperazine-1-carboxylic acid tert-butyl ester (4.13 g, 0.022 mol) and DIEA (5.2 mL, 0.03 mol) in DMA at 110° C. for 5 h. Partition the reaction mixture between water and EtOAc. Wash the EtOAc layer with water (1×) and brine (1×), dry (Na2SO4) and concentrate under reduced pressure to give the title compound as an orange oil.

reactant | 5,6-dichloro-nicotinic acid ethyl ester | 0.02 mol, 4.43 g | C(C)OC(C1=CN=C(C(=C1)Cl)Cl)=O | C8H7Cl2NO2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.022 mol, 4.13 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DIEA | 0.03 mol, 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-(3-Chloro-5-ethoxycarbonyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1Cl)C(=O)OCC | C17H24ClN3O4
